US07977325B2
Production of 6-Cyclopropyl-4-(3,4-dichlorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile
While being stirred, 300 ml of ethanol is mixed with 14 g of acetyl cyclopropane, 18 g of cyanoacetic acid ethyl ester, 28 g of 3,4-dichlorobenzaldehyde as well as 100 g of ammonium acetate, and it is subsequently heated to boiling for six hours at a bath temperature of 80-90° C. After some length of time, a portion of the product already precipitates from the reaction solution. To complete the precipitation, it is then allowed to cool to room temperature while being stirred. The precipitate is suctioned off, washed acetate-free with cold ethanol and water and ultimately dried. 15 g of product accumulates, melting point 290-295° C., while decomposing.

reactant | acetyl cyclopropane | 14 g | C(C)(=O)C1CC1 | C5H8O
reactant | cyanoacetic acid ethyl ester | 18 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | 3,4-dichlorobenzaldehyde | 28 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | ammonium acetate | 100 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-Cyclopropyl-4-(3,4-dichlorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile | C1(CC1)C1=CC(=C(C(N1)=O)C#N)C1=CC(=C(C=C1)Cl)Cl | C15H10Cl2N2O
